Spice Simulation 1-1
*** MODEL Descriptions ***
.model nm NMOS level=2 VT0=0.7
KP=80e-6 LAMBDA=0.01
*** NETLIST Description ***
M1 vdd ng 0 0 nm W=3u L=3u
R1 in ng 50
Vdd vdd 0 5
Vin in 0 2.5
*** SIMULATION Commands ***
.op
.end
